US06951879B2
According to the method in example 4, 3-(4-Bromo-phenyl)-6-(3-bromo-propoxy)-benzo[d]isothiazole and 2-(methylamino)ethanol were converted to yield 2-[[3-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-propyl]-methyl-amino]-ethanol, MS: 422 (MH+, 1Br).

reactant | 3-(4-Bromo-phenyl)-6-(3-bromo-propoxy)-benzo[d]isothiazole | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCBr | C16H13Br2NOS
reactant | 2-(methylamino)ethanol | CNCCO | C3H9NO
product | 2-[[3-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-propyl]-methyl-amino]-ethanol | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCN(CCO)C | C19H21BrN2O2S
